US03957761
In the manner given in Example 1, 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-(2,6-difluorophenyl)quinazoline with pyridine is reacted with α-phthalimidoacetyl chloride to give 1,3-dioxo-2-isoindolineacetic acid, [[N-[2-(2,6-difluorobenzoyl)-4-chlorophenyl]-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide.

reactant | 3-amino-6-chloro-3,4-dihydro-4-hydroxy-4-(2,6-difluorophenyl)quinazoline | NN1C=NC2=CC=C(C=C2C1(C1=C(C=CC=C1F)F)O)Cl | C14H10ClF2N3O
reactant | α-phthalimidoacetyl chloride | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,3-dioxo-2-isoindolineacetic acid, [[N-[2-(2,6-difluorobenzoyl)-4-chlorophenyl]-1,3-dioxo-2-isoindolineacetamido]methylene]hydrazide | FC1=C(C(=O)C2=C(C=CC(=C2)Cl)N(C(CN2C(C3=CC=CC=C3C2=O)=O)=O)C=NNC(CN2C(C3=CC=CC=C3C2=O)=O)=O)C(=CC=C1)F | C34H20ClF2N5O7
